US08466289B2
Synthesis of Intermediate Cyclopropanesulfonic acid [1-benzyl-7-(2-fluoro-4-iodo-phenylamino)-6-methyl-5-oxo-1,2,3,5-tetrahydro-imidazo[1,2-a]pyridin-8-yl]-amide (I-3d)
Following the procedure set forth for the preparation of Example 1A, 8-amino-1-benzyl-7-(2-fluoro-4-iodo-phenylamino)-6-methyl-2,3-dihydro-1H-imidazo[1,2-a]pyridin-5-one (250 mg, 0.001 mol) in pyridine (4 mL) was reacted with cyclopropanesulfonyl chloride (144 mg, 0.001 mol) to afford the crude product. Purification by column chromatography on silica gel (80% ethylacetate in hexane) afforded 40 mg of the product (13.2% yield).

reactant | 8-amino-1-benzyl-7-(2-fluoro-4-iodo-phenylamino)-6-methyl-2,3-dihydro-1H-imidazo[1,2-a]pyridin-5-one | 0.001 mol, 250 mg | NC1=C2N(C(C(=C1NC1=C(C=C(C=C1)I)F)C)=O)CCN2CC2=CC=CC=C2 | C21H20FIN4O
reactant | cyclopropanesulfonyl chloride | 0.001 mol, 144 mg | C1(CC1)S(=O)(=O)Cl | C3H5ClO2S
solvent | pyridine | 4 mL | N1=CC=CC=C1 | C5H5N
product | Cyclopropanesulfonic acid [1-benzyl-7-(2-fluoro-4-iodo-phenylamino)-6-methyl-5-oxo-1,2,3,5-tetrahydro-imidazo[1,2-a]pyridin-8-yl]-amide | 40 mg, 13.2% yield | C(C1=CC=CC=C1)N1CCN2C1=C(C(=C(C2=O)C)NC2=C(C=C(C=C2)I)F)NS(=O)(=O)C2CC2 | C24H24FIN4O3S
